US04505923
6-(3-Acetoxy-2-hydroxypropoxy)benzothiazole-2-sulfonamide
A suspension of 6-(2,3-epoxypropoxy)benzothiazole-2-sulfonamide (1.57 gm, 5.5 mmol) in acetic acid (25 mL) was heated at 100° C. for 3-4 hours. The solvent was evaporated. Traces of solvent were removed by chasing with toluene. The residue was dissolved in acetonitrile and diluted with chloroform. Upon standing, product crystallized (0.77 gm), m.p. 173°-175° C.

reactant | 6-(2,3-epoxypropoxy)benzothiazole-2-sulfonamide | 5.5 mmol, 1.57 gm | O1C(COC2=CC3=C(N=C(S3)S(=O)(=O)N)C=C2)C1 | C10H10N2O4S2
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 6-(3-Acetoxy-2-hydroxypropoxy)benzothiazole-2-sulfonamide | C(C)(=O)OCC(COC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1)O | C12H14N2O6S2
